US04235930
(5Z,13E)-(11R,15R)-15-Hydroxy-9-oxo-11,16,16-trimethyl-5,13-prostadien-18-ynoic Acid
300 mg. of (5Z,13E)-(11R,15R)-9-oxo-15-(tetrahydropyran-2-yloxy)-11,16,16-trimethyl-5,13-prostadien-18-ynoic acid is agitated for 16 hours at room temperature with 10 ml. of a mixture of glacial acetic acid/water/THF (65/35/10); the reaction mixture is evaporated under vacuum and the residue purified by chromatography on silica gel. With methylene chloride/2% methanol, 180 mg. of the title compound is obtained as a colorless oil.

reactant | (5Z,13E)-(11R,15R)-9-oxo-15-(tetrahydropyran-2-yloxy)-11,16,16-trimethyl-5,13-prostadien-18-ynoic acid | O=C1[C@H](C\C=C/CCCC(=O)O)[C@H]([C@@H](C1)C)\C=C\[C@H](C(CC#CC)(C)C)OC1OCCCC1 | C28H42O5
solvent | acetic acid water THF | C(C)(=O)O.O.C1CCOC1
product | (5Z,13E)-(11R,15R)-15-Hydroxy-9-oxo-11,16,16-trimethyl-5,13-prostadien-18-ynoic Acid | O[C@H](/C=C/[C@H]1[C@@H](CC([C@@H]1C\C=C/CCCC(=O)O)=O)C)C(CC#CC)(C)C | C23H34O4
